US07320994B2
(3-bromo-pyridin-4-yl)-(2-chloro-phenyl)-methanol
Add n-BuLi (48.2 mL, 77.1 mmol, 1.6N in hexane) to a −70° C. solution of diisopropylamine (10.8 mL, 77.1 mmol) in THF (130 mL) in a flame-dried flask. After 30 minutes add 3-bromo-pyridine (2.48 mL, 25.7 mmol) dropwise and stir the mixture at −70° C. After 4 hours, add 2-chloro-benzaldehyde (2.95 mL, 26.2 mmol) dropwise, stir at −70° C. After 1 hour, warm reaction to RT, quench reaction with dropwise addition of 60 mL saturated NH4Cl solution. Extract with Et2O (3×), wash with brine, dry the combined organic layers over MgSO4 and concentrate. Purify the residue by flash chromatography on silica gel eluting with 0-40% EtOAc/hexane to afford the title compound: MS(IS) 299 (M+1); TLC (50% EtOAc/hexanes) Rf=0.23.

reactant | n-BuLi | 77.1 mmol, 1.6N, 48.2 mL | [Li]CCCC
reactant | diisopropylamine | 77.1 mmol, 10.8 mL | C(C)(C)NC(C)C | C6H15N
reactant | 3-bromo-pyridine | 25.7 mmol, 2.48 mL | BrC=1C=NC=CC1 | C5H4BrN
reactant | 2-chloro-benzaldehyde | 26.2 mmol, 2.95 mL | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | NH4Cl | 60 mL | [NH4+].[Cl-]
solvent | THF | 130 mL | C1CCOC1 | C4H8O
product | (3-bromo-pyridin-4-yl)-(2-chloro-phenyl)-methanol | BrC=1C=NC=CC1C(O)C1=C(C=CC=C1)Cl | C12H9BrClNO
